US05055585
Added to 10 ml of ethyl alcohol were 2.0 g (10.0 mmol) of 5-propionyl-3-phenylisoxazole and 1.7 g (20.0 mmol) of piperidine, followed by the dropwise addition of 1.63 ml (20.0 mmol) of a 37% aqueous solution of formaldehyde under ice cooling. After the reaction mixture was stirred for 2 hours at room temperature, the solvent was distilled off under reduced pressure. The residue was dissolved in ethyl ether. The organic layer was washed with water and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, whereby the target compound, namely, 5-(2-piperidinomethylpropionyl)-3-phenylisoxazole was obtained as crystals.

reactant | 5-propionyl-3-phenylisoxazole | 10.0 mmol, 2.0 g | C(CC)(=O)C1=CC(=NO1)C1=CC=CC=C1 | C12H11NO2
reactant | piperidine | 20.0 mmol, 1.7 g | N1CCCCC1 | C5H11N
reactant | formaldehyde | C=O | CH2O
solvent | ethyl alcohol | 10 ml | C(C)O | C2H6O
product | 5-(2-piperidinomethylpropionyl)-3-phenylisoxazole | N1(CCCCC1)CC(C(=O)C1=CC(=NO1)C1=CC=CC=C1)C | C18H22N2O2
